US07767675B2
Step 2. Methyl 4-(diethoxyacetyl)benzoate
A mixture of methyl 4-(oxoacetyl)benzoate (13.5 g, 0.0702 mol), ethyl orthoformate (29 mL, 0.18 mol), p-toluenesulfonic acid monohydrate (0.7 g) in toluene (150 mL) was refluxed for 2 h. After cooling to RT, the solvent was removed under reduced pressure. The crude material was chromatographed on silica gel to afford the desired product (15.4 g, 82%). LCMS: (M+Na)=289.0.

reactant | methyl 4-(oxoacetyl)benzoate | 0.0702 mol, 13.5 g | O=CC(=O)C1=CC=C(C(=O)OC)C=C1 | C10H8O4
reactant | ethyl orthoformate | 0.18 mol, 29 mL | C(OCC)([O-])[O-]
reactant | toluene | 150 mL | C1(=CC=CC=C1)C | C7H8
catalyst | p-toluenesulfonic acid monohydrate | 0.7 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
product | Methyl 4-(diethoxyacetyl)benzoate | 15.4 g, 82% | C(C)OC(C(=O)C1=CC=C(C(=O)OC)C=C1)OCC | C14H18O5
